US05698554
In hot ethanol (180 ml) was dissolved 8.9 g of 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]pyridazin-3(2H)-one. A 18 % hydrochloric acid-ethanol solution (10 ml) was added to the solution, and the mixture was left to stand at room temperature. Precipitated crystal was collected by filtration and washed with cold ethanol to obtain 9.3 g of 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]pyridazin-3(2H)-one hydrochloride.

reactant | 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]pyridazin-3(2H)-one | 8.9 g | N1=CC(=CC=C1)C(=O)NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C20H20N4O2
reactant | hydrochloric acid ethanol | 10 ml | Cl.C(C)O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 6-[4-(4-(pyridin-3-ylcarbonylamino)butyl)phenyl]pyridazin-3(2H)-one hydrochloride | 9.3 g | Cl.N1=CC(=CC=C1)C(=O)NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | InChI=1S/C20H20N4O2.ClH/c25-19-11-10-18(23-24-19)16-8-6-15(7-9-16)4-1-2-13-22-20(26)17-5-3-12-21-14-17;/h3,5-12,14H,1-2,4,13H2,(H,22,26)(H,24,25);1H
